US09145414B2
In accordance with Example 62 (Step 1), ethyl acetate (20 mL) was added to 2-(difluoromethyl)-5-nitro-2H-indazole (429 mg) obtained by using 5-nitro-1H-indazole instead of 5-bromo-7-methyl-1H-indazole. Thereafter, 10% palladium on carbon (300 mg) was added, and the reaction solution was stirred under hydrogen atmosphere at room temperature for 4 hours. The insolubles were filtrated, and then the solvent was evaporated under vacuum to obtain 2-(difluoromethyl)-2H-indazol-5-amine as a white solid.

reactant | 2-(difluoromethyl)-5-nitro-2H-indazole | 429 mg | FC(N1N=C2C=CC(=CC2=C1)[N+](=O)[O-])F | C8H5F2N3O2
reactant | 5-nitro-1H-indazole | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-(difluoromethyl)-2H-indazol-5-amine | FC(N1N=C2C=CC(=CC2=C1)N)F | C8H7F2N3
